US05731322
(±)-trans-2-Diethylaminocarbonyl-3,7-dimethyl-4a-(3-methoxyphenyl) -4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[3,2-g]isoquinoline
0.9 g (2.9 mmol) of (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-7-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride (J. Med. Chem., 35, 48, 1992), 0.9 g (3.5 mmol) of N,N-diethyl-2-phenylhydrazono-3-oxobutyramide, 0.28 g (3.5 mmol) of CH3COONa, 0.87 g (13.3 mmol) of zinc dust and 5 ml of glacial acetic acid were treated as described in example 1. The residue was purified by flash chromatography (CH2Cl2 /MeOH/conc. NH4 OH 86: 10:0.6; Rf=0.27), to yield 0.2 g of the title compound.M.p.=153°-155° C. dec.

reactant | (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-7-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride | 2.9 mmol, 0.9 g | Cl.C(C)N1C[C@@H]2CC(CC[C@]2(CC1)C1=CC(=CC=C1)OC)=O
reactant | N,N-diethyl-2-phenylhydrazono-3-oxobutyramide | 3.5 mmol, 0.9 g | C(C)N(C(C(C(C)=O)=NNC1=CC=CC=C1)=O)CC | C14H19N3O2
reactant | CH3COONa | 3.5 mmol, 0.28 g | CC(=O)O[Na]
catalyst | zinc | 13.3 mmol, 0.87 g | [Zn] | Zn
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (±)-trans-2-Diethylaminocarbonyl-3,7-dimethyl-4a-(3-methoxyphenyl) -4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[3,2-g]isoquinoline | 0.2 g | C(C)N(C(=O)C1=C(C=2C[C@]3(CCN(C[C@@H]3CC2N1)C)C1=CC(=CC=C1)OC)C)CC | C25H35N3O2
